US09403835B2
Step 2: 3-(2-carboxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (1.85 g; 20.43 mmol; 5.5 eq.) and sodium dihydrogenphosphate (1.6 g; 13.37 mmol; 3.6 eq.) in water (10 mL) was added dropwise to a mixture of 2-methyl-2-butene (3.71 mL) and 3-(2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester (1.03 g; 3.71 mmol; 1 eq.) in 1,4-dioxane (10 mL). and the reaction mixture was stirred at room temperature for 2 hours. The dioxane was evaporated in vacuo, the mixture diluted with water and the pH made acidic with 0.1M HCl. The precipitate was filtered off, washed with water and dried to afford the title compound (1.02 g, 94%) as a white solid. UPLC/MS: (MS−) 292.4 ([M−H]−).

reactant | sodium chlorite | 20.43 mmol, 1.85 g, 5.5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 13.37 mmol, 1.6 g, 3.6 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 3.71 mL | CC(C)=CC | C5H10
reactant | 3-(2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 3.71 mmol, 1.03 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC=C1)C=O | C15H19NO4
solvent | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(2-carboxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 1.02 g, 94% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC=C1)C(=O)O | C15H19NO5
